US06087357
To an ice-cooled solution of ethyl 3-(1-methyl-1H-pyrazol-4-yl)propionate (1.05 g) in tetrahydrofuran (10 ml) was added lithium aluminum hydride (0.22 g) under nitrogen atmosphere After the mixture was stirred for 30 minutes, water and 15% sodium hydroxide aqueous solution were added successively to the mixture. The resulting precipitates were filtered off through Celite® pad and the filtrate was extracted with ethyl acetate. The organic layer was washed with water, dried over magnesium sulfate and concentrated under reduced pressure to give 3-(1-methyl-1H-pyrazol-4-yl)-1-propanol.

reactant | ethyl 3-(1-methyl-1H-pyrazol-4-yl)propionate | 1.05 g | CN1N=CC(=C1)CCC(=O)OCC | C9H14N2O2
reactant | lithium aluminum hydride | 0.22 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-(1-methyl-1H-pyrazol-4-yl)-1-propanol | CN1N=CC(=C1)CCCO | C7H12N2O
